US08389940B2
1-Hexadecyl-3-[4-(5-phenyl-oxazol-2-yl)-benzyl]-3H-imidazol-1-ium hexafluorophosphate, 2a
To a round-bottomed flask are added 1-hexadecyl-3-[4-(5-phenyl-oxazol-2-yl)-benzyl]-3H-imidazol-1-ium bromide (1.008 g, 1.7 mmol) dissolved in ethanol (50 mL). An aqueous solution of potassium hexafluorophosphate is added (0.490 g, 2.7 mmol, 10 mL). The mixture is stirred at ambient temperature for 3 days. The precipitate is filtered, washed 3 times with 30 mL distilled water and dried under reduced pressure at ambient temperature for 12 hours. The product is characterized by NMR spectroscopy.

reactant | 1-hexadecyl-3-[4-(5-phenyl-oxazol-2-yl)-benzyl]-3H-imidazol-1-ium bromide | 1.7 mmol, 1.008 g | [Br-].C(CCCCCCCCCCCCCCC)[N+]1=CN(C=C1)CC1=CC=C(C=C1)C=1OC(=CN1)C1=CC=CC=C1
reactant | potassium hexafluorophosphate | F[P-](F)(F)(F)(F)F.[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-Hexadecyl-3-[4-(5-phenyl-oxazol-2-yl)-benzyl]-3H-imidazol-1-ium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C(CCCCCCCCCCCCCCC)[N+]1=CN(C=C1)CC1=CC=C(C=C1)C=1OC(=CN1)C1=CC=CC=C1 | InChI=1S/C35H48N3O.F6P/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-18-25-37-26-27-38(30-37)29-31-21-23-33(24-22-31)35-36-28-34(39-35)32-19-16-15-17-20-32;1-7(2,3,4,5)6/h15-17,19-24,26-28,30H,2-14,18,25,29H2,1H3;/q+1;-1
